US04719047
1-Chloroanthracene prepared from 1-chloroanthraquinone (Aldrich) by the method of H. O. House et. al. (J. Org. Chem. 38 1167 (1973)) was formylated by the procedure outlined in 14A to give 4-chloro-9-anthracenecarbaldehyde mp 129°-131°, (PhCH3 /CH3OH), (C,H,Cl).

reactant | 1-Chloroanthracene | ClC1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H9Cl
reactant | 1-chloroanthraquinone | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7ClO2
product | 4-chloro-9-anthracenecarbaldehyde | ClC1=CC=CC2=C(C3=CC=CC=C3C=C12)C=O | C15H9ClO
